US06316228B1
The assay mixture contained 2 g (wet weight) of Bacillus stearothermophilus cells, 5 mM 2′-deoxyinosine and 5 mM thymine in 10 ml of 50 mM ammonium acetate buffer (pH 5.5). The conversions were run at 55° C. for 1 hour. The reaction mixture was centrifuged and then filtered using an Amicon Ultrafiltration device (YM-3 membrane) and the products were separated and analyzed by HPLC (C-18 column) in 5% methanol and 5 mM phosphate buffer at pH 4.6 using a flow rate of 0.5 ml/min. Blanks were run to check the authenticity of the reaction. No undesirable side reactions were detected. Thymidine was obtained in 56% yield (78% conversion).

reactant | 2′-deoxyinosine | 5 mM | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O4
reactant | thymine | 5 mM | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
solvent | ammonium acetate | 50 mM, 10 ml, pH 5.5 | C(C)(=O)[O-].[NH4+]
product | Thymidine | 56% yield | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
